US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(isopropylamino)quinoxaline-6-carboxylate (95 mg, 0.28 mmol) in tetrahydrofuran (20 mL) was added sodium hydride (23 mg, 0.96 mmol) and stirred for 10 minutes. Subsequently, iodoethane (43.7 mg, 0.28 mmol) was added and stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure to afford a residue, which was dissolved in water (25 mL) and the pH adjusted to 6 with hydrochloric acid (3N). The product precipitated and was filtered to afford 3-(ethyl(isopropyl)amino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a light yellow solid (28.4 mg, 29%).

reactant | methyl 2-(4-fluorophenyl)-3-(isopropylamino)quinoxaline-6-carboxylate | 0.28 mmol, 95 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1NC(C)C)C(=O)OC | C19H18FN3O2
reactant | sodium hydride | 0.96 mmol, 23 mg | [H-].[Na+]
reactant | iodoethane | 0.28 mmol, 43.7 mg | ICC | C2H5I
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 3-(ethyl(isopropyl)amino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | 28.4 mg, 29% | C(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F)C(C)C | C20H20FN3O2
